US04640703
A mixture of 67.0 g (0.206 mole) of methyl 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionate, 350 ml of dioxan and 250 ml of 1N sodium hydroxide solution is stirred for 2 hours at 40° C. The reaction mixture is poured into a mixture of ice and 150 ml of 2N hydrochloric acid and extracted twice with ethyl acetate. The extracts are washed with a saturated solution of sodium chloride, dried over magnesium sulfate, filtered and concentrated by evaporation, affording 63.6 g (99% of theory) of 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionic acid with a melting point of 95°-97° C.

reactant | methyl 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionate | 0.206 mole, 67.0 g | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)OC)C)C=C1)F | C15H13ClFNO4
reactant | sodium hydroxide | 1N, 250 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 150 ml | Cl | ClH
solvent | dioxan | 350 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionic acid | 63.6 g, 99% | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)O)C)C=C1)F | C14H11ClFNO4
